US04870074
Preparation of 4-amino-5-chloro-2-ethoxy-N-[[4-(4-fluorobenzyl)-2-morpholinyl]methyl]benzamide (the same compound as that of Example 1)
A mixture of 4-acetylamino-5-chloro-2-ethoxy-N-[[4-(4-fluorobenzyl)-2-morpholinyl]methyl]benzamide (2.0 g) and 10% hydrochloric acid (40 ml) is refluxed with stirring for 1 hour and cooled. The reaction mixture is neutralized with aqueous sodium hydroxide solution and extracted with chloroform. The organic layer is dried over magnesium sulfate and evaporated. The residue is recrystallized from ethanol to give the title compound (1.4 g), mp 151°-153° C.

reactant | 4-acetylamino-5-chloro-2-ethoxy-N-[[4-(4-fluorobenzyl)-2-morpholinyl]methyl]benzamide | 2.0 g | C(C)(=O)NC1=CC(=C(C(=O)NCC2CN(CCO2)CC2=CC=C(C=C2)F)C=C1Cl)OCC | C23H27ClFN3O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 40 ml | Cl | ClH
product | 4-amino-5-chloro-2-ethoxy-N-[[4-(4-fluorobenzyl)-2-morpholinyl]methyl]benzamide | 1.4 g | NC1=CC(=C(C(=O)NCC2CN(CCO2)CC2=CC=C(C=C2)F)C=C1Cl)OCC | C21H25ClFN3O3
